US07432291B2
iii) 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole
4.45 g (18.0 mmol) 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylamide, 2.80 g (22.2 mmol) 1,3-dichloroacetone and 50.0 ml toluene were kept at reflux temperature for 40 h with continuous removal of water by use of a Dean-Stark trap. After removal of solvents in vacuo, the residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 1:1). All fractions containing the product were concentrated to a volume of 10 ml and the crystallized material isolated by filtration, washed with cold heptane and dried. Yield 2.02 g (35%) 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole.

reactant | 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylamide | 18.0 mmol, 4.45 g | FC(F)(F)SC1=CC=C(C=C1)C=CC(=O)N | C10H8F3NOS
reactant | 1,3-dichloroacetone | 22.2 mmol, 2.80 g | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 50.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)SC(F)(F)F | C13H9ClF3NOS
